US07494801B2
Cells obtained by centrifugation of the culture solution at the stationary phase were resuspended in 1 L of 4 M ammonia/ammonium carbonate (pH 10.3), and 20 g of cinnamic acid was added thereto. The reaction was conducted with stirring at 30° C. and 800 rpm. A part of the reaction solution was sampled every 1 hour, and an amount of L-phenylalanine formed in the reaction solution was determined by HPLC. While a substrate was successively added to keep a substrate concentration at 2%, the reaction was continued. Then, approximately 3.5% L-phenylalanine was accumulated in the reaction solution for approximately 3 hours.

reactant | cinnamic acid | 20 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | ammonia ammonium carbonate | 4 M, 1 L, pH 10.3 | N.C([O-])([O-])=O.[NH4+].[NH4+]
product | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
